US06960575B2
{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid (Reference compound No. 51-1)
A 4 N aqueous lithium hydroxide solution (0.4 ml) is added to a solution of ethyl {(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}acetate (185 mg, Reference compound No. 50-1) in ethanol (5 ml), and the mixture is stirred for 35 minutes. To the reaction mixture is added 1 N hydrochloric acid to acidify the system, and the whole is extracted with ethyl acetate. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure to give the titled reference compound (167 mg).

reactant | lithium hydroxide | 4 N, 0.4 ml | [OH-].[Li+]
reactant | ethyl {(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}acetate | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)OCC)=O)C(C)C | C19H24N2O4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | {(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid | 167 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)O)=O)C(C)C | C17H20N2O4
